US07622469B2
4-Octylamino-3,6-dihydro-6,6-dimethyl-2-heptylamino-1,3,5-triazine acetate
100 ml of methanol, 80 ml of acetone and 0.5 ml of concentrated hydrochloric acid were added to 8.0 g (20.8 mmol) of N1-octyl-N5-heptyl-biguanide dihydrochloride. The mixture was refluxed for 64 hours, and the solvent was distilled off under reduced pressure. To the residue were added 100 ml of ethanol, 60 ml of water and 8.5 ml of 5N sodium hydroxide, and the mixture was refluxed for 1 hour, concentrated under reduced pressure, and extracted with ethyl acetate. The extract was washed with water, and 1.3 g of acetic acid was added thereto. The solvent was distilled off under reduced pressure, and the residue was dried well, and recrystallized from methyl ethyl ketone to obtain 4.1 g of colorless crystals having a melting point of 82 to 84° C.

reactant | methanol | 100 ml | CO | CH4O
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | N1-octyl-N5-heptyl-biguanide dihydrochloride | 20.8 mmol, 8.0 g | Cl.Cl.C(CCCCCCC)NC(=N)NC(=N)NCCCCCCC
reactant | acetone | 80 ml | CC(=O)C | C3H6O
product | 4-Octylamino-3,6-dihydro-6,6-dimethyl-2-heptylamino-1,3,5-triazine acetate | 4.1 g | C(C)(=O)O.C(CCCCCCC)NC=1NC(=NC(N1)(C)C)NCCCCCCC | InChI=1S/C20H41N5.C2H4O2/c1-5-7-9-11-13-15-17-22-19-23-18(24-20(3,4)25-19)21-16-14-12-10-8-6-2;1-2(3)4/h5-17H2,1-4H3,(H3,21,22,23,24,25);1H3,(H,3,4)
